US09447054B2
8 mmol of 2,4-diaminophenol.2HCl and 8 mmol of naphthalene-1-carboxylic acid were dissolved in 10 g of polyphosphoric acid (PPA), and then, the mixed solution was stirred at a temperature of 180° C. for 3 to 4 hours. After completion of the reaction, the reaction solution was cooled, neutralized with 10% NaOH, and filtered by using distilled water for recrystallization in a slow manner, thereby obtaining 1.6 g of 2-(naphthalene-1-yl)benzo[d]oxazole-5-amine (Derivative #2) (yield: 77%).

reactant | 2,4-diaminophenol.2HCl | 8 mmol | C1=CC(=C(C=C1N)N)O.Cl.Cl
reactant | naphthalene-1-carboxylic acid | 8 mmol | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | NaOH | [OH-].[Na+]
product | 2-(naphthalene-1-yl)benzo[d]oxazole-5-amine | 1.6 g, yield: 77% | C1(=CC=CC2=CC=CC=C12)C=1OC2=C(N1)C=C(C=C2)N | C17H12N2O
